US05817671
5-(N-[cyclobutanecarbonyl]amino)-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine
Beginning with 0.25 gm (1.08 mMol) 5-amino-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine and 0.136 gm (1.19 mMol) cyclobutanecarbonyl chloride, 0.17 gm (50.8%) of the title compound were prepared essentially by the procedure described in Example 4.

reactant | 5-amino-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine | 1.08 mMol, 0.25 gm | NC1=CC=C2C(=N1)C(=CN2)C2CCN(CC2)C | C13H18N4
reactant | cyclobutanecarbonyl chloride | 1.19 mMol, 0.136 gm | C1(CCC1)C(=O)Cl | C5H7ClO
product | 5-(N-[cyclobutanecarbonyl]amino)-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine | 0.17 gm, 50.8% | C1(CCC1)C(=O)NC1=CC=C2C(=N1)C(=CN2)C2CCN(CC2)C | C18H24N4O
